US05707987
2.0M Phenylmagnesium bromide-tetrahydrofuran solution (22.8 ml, 45.6 mmol) was added dropwise to a solution of (2S,4R)-N-t-butoxycarbonyl-4-(t-butyldimethylsiloxy)prolinal (10 g, 30.4 mmol) in tetrahydrofuran (200 ml) at -78° C. in a nitrogen stream. The reaction solution was allowed to gradually warm and then stirred at room temperature for 3 hours. After addition of water, this reaction solution was concentrated in vacuo. The resulting residue was poured into a liquid mixture of ethyl acetate with water. The organic layer was washed with saturated aqueous sodium chloride, dried over anhydrous sodium sulfate, and then concentrated in vacuo. The resulting oily residue was subjected to silica gel column chromatography (Wakogel™ C-300 heptane:ethyl acetate 4:1) to give (2S,4R)-N-t-butoxycarbonyl-4-t-butyldimethylsiloxy-2-(α-hydroxybenzyl)pyrrolidine (11.98 g, yield: 96.8%) as a colorless oily substance.

reactant | Phenylmagnesium bromide tetrahydrofuran | 45.6 mmol, 2.0M, 22.8 ml | C1(=CC=CC=C1)[Mg]Br.O1CCCC1
reactant | (2S,4R)-N-t-butoxycarbonyl-4-(t-butyldimethylsiloxy)prolinal | 30.4 mmol, 10 g | C(C)(C)(C)OC(=O)N1[C@H](C=O)C[C@H](C1)O[Si](C)(C)C(C)(C)C | C16H31NO4Si
reactant | water | O | H2O
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | (2S,4R)-N-t-butoxycarbonyl-4-t-butyldimethylsiloxy-2-(α-hydroxybenzyl)pyrrolidine | 11.98 g, yield: 96.8% | C(C)(C)(C)OC(=O)N1[C@@H](C[C@H](C1)O[Si](C)(C)C(C)(C)C)C(C1=CC=CC=C1)O | C22H37NO4Si
